data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1912,2120,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[NH:29][CH3:30].[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[N:1]#[C:2][C:3]1=[CH:4][CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[C:14]([C:12]([NH:11][CH3:10])=[O:13])([C:27](=[O:28])[NH:29][CH3:30])[NH:15][C:16]3([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,19.610129324315515,-39.00473084886364
508,555,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([CH3:17])[NH+:18]=[CH:19][C:20]#[N:21].[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[F:1][C:2]([F:3])([F:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]([C:14]([NH:13][CH3:12])=[O:15])([CH3:17])[NH:18][CH:19]3[C:20]#[N:21],water,298.15,12.659074211137044,-47.924670922383385
134,150,[CH3:10][N-:11][NH+:12]=[CH:13][C:14](=[O:15])[NH:16][CH3:17].[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([F:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[N:11]([CH3:10])[NH:12][CH:13]3[C:14](=[O:15])[NH:16][CH3:17],water,298.15,17.959352217808863,-46.09410454835458
2201,2440,[CH3:1][O:2][C:3]1([F:4])[C:5]#[C:6][C:7]([C:8]([F:9])([F:10])[F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1.[CH3:20][O:21][C:22](=[O:23])[CH:24]=[N+:25]([CH3:26])[CH-:27][C:28]([CH3:29])=[O:30]>>[CH3:1][O:2][C:3]1([F:4])[C:5]2=[C:6]([C:7]([C:8]([F:9])([F:10])[F:11])([C:12]([F:13])([F:14])[F:15])[CH2:16][CH2:17][CH2:18][CH2:19]1)[CH:24]([C:22]([O:21][CH3:20])=[O:23])[N:25]([CH3:26])[CH:27]2[C:28]([CH3:29])=[O:30],water,298.15,15.813627882926593,-45.0237163878986
2933,3270,[CH2:5]=[N+:6]([CH3:7])[CH-:8][C:9]([CH3:10])=[O:11].[CH3:1]/[CH:2]=[CH:3]/[CH3:4]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:8]([C:9]([CH3:10])=[O:11])[N:6]([CH3:7])[CH2:5]1,water,298.15,25.301105971361743,-24.962853875535465
889,962,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([O+:16]=[C:17]([CH3:18])[C:19]#[N:20])[C:21]([CH3:22])=[O:23].[CH3:1][O:2][C:3]1=[C:4]([F:5])[CH:6]2[CH2:7][CH2:8][CH:9]1[CH2:10]2>>[CH3:1][O:2][C:3]12[C:4]([F:5])([CH:6]3[CH2:7][CH2:8][CH:9]1[CH2:10]3)[C:17]([CH3:18])([C:19]#[N:20])[O:16][C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:21]([CH3:22])=[O:23],water,298.15,7.242876816489892,-43.8840513031865
3511,4003,[CH2:1]=[CH2:2].[CH3:3][C:4](=[NH+:5][C-:6]([CH3:7])[c:8]1[cH:9][cH:10][cH:11][cH:12][cH:13]1)[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH2:1]1[CH2:2][C:6]([CH3:7])([c:8]2[cH:9][cH:10][cH:11][cH:12][cH:13]2)[NH:5][C:4]1([CH3:3])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,17.50859911000611,-32.270452710474146
1757,1946,[CH3:13][c:14]1[o:15][c:16](=[O:17])[c-:18]([C:19]#[N:20])[o+:21]1.[CH3:1][C:2]1([F:3])[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[CH3:1][C:2]1([F:3])[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:14]1([CH3:13])[O:15][C:16](=[O:17])[C:18]2([C:19]#[N:20])[O:21]1,water,298.15,18.74768713861543,-24.93580111083765
169,186,[CH3:12][CH:13]=[NH+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]#[N:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH:13]([CH3:12])[NH:14][CH:15]2[C:16]([CH3:17])=[O:18],water,298.15,13.713895946431904,-22.70087058792805
2196,2434,[CH3:13][C:14](=[O:15])[C:16]([CH3:17])=[O+:18][C-:19]([C:20]#[N:21])[C:22]([CH3:23])=[O:24].[CH3:1][O:2][C:3](=[O:4])/[C:5]([Br:6])=[C:7](/[Br:8])[C:9](=[O:10])[O:11][CH3:12]>>[CH3:1][O:2][C:3](=[O:4])[C@:5]1([Br:6])[C@:7]([Br:8])([C:9](=[O:10])[O:11][CH3:12])[C:19]([C:20]#[N:21])([C:22]([CH3:23])=[O:24])[O:18][C:16]1([C:14]([CH3:13])=[O:15])[CH3:17],water,298.15,23.678426020849628,-17.379353549702188
3274,3700,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[C-:11]([N+:12]#[N:13])[C:14]([CH3:15])=[O:16]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:11]([C:9]([O:8][CH3:7])=[O:10])([C:14]([CH3:15])=[O:16])[N:12]=[N:13]1,water,298.15,32.57248063087515,3.359790287829413
766,828,[CH3:11][C:12]#[N+:13][C-:14]([CH3:15])[C:16](=[O:17])[NH:18][CH3:19].[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Br:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:12]([CH3:11])=[N:13][C:14]3([CH3:15])[C:16](=[O:17])[NH:18][CH3:19],water,298.15,10.235232749458264,-64.23133872696742
3701,4225,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][O:6][C:7](=[O:8])[c:9]1[o:10][c:11](=[O:12])[c-:13]([C:14](=[O:15])[O:16][CH3:17])[n+:18]1[CH3:19]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:13]2([C:14](=[O:15])[O:16][CH3:17])[C:11](=[O:12])[O:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[N:18]2[CH3:19],water,298.15,26.954174566457468,-3.895334564935349
